US07033765B1
In a manner analogous to that above, the reaction of p-aminobenzoic acid (473 mg; 4.90 mmol), 1-(8-bromo-3,6-dioxaoctyl) methanethiosulfonate (1.04 g, 3.39 mmol) and CsCl (1.17 g, 3.6 mmol) yielded 10-(4-aminophenyl)-10-oxo-3,6,9-trioxadecyl methanethiosulfonate (870 mg). 1H NMR (500 MHz, (CD3)2SO) δ 7.62 (d J=8.6 Hz, 2H), 6,55 (d, J=8.6 Hz, 2H), 5.94 (s, 2H), 4.25 (t, J=4.8 Hz, 2H), 3.72-3.67 (m, 4H), 3.58 (s, br., 4H). 3.51 (s, 3H), 3.35 (t, J=5.9 Hz, 2H).

reactant | p-aminobenzoic acid | 4.90 mmol, 473 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 1-(8-bromo-3,6-dioxaoctyl) methanethiosulfonate | 3.39 mmol, 1.04 g | CS(=O)(OCCOCCOCCBr)=S | C7H15BrO4S2
reactant | CsCl | 3.6 mmol, 1.17 g | [Cl-].[Cs+]
product | 10-(4-aminophenyl)-10-oxo-3,6,9-trioxadecyl methanethiosulfonate | 870 mg | CS(=O)(OCCOCCOCCOC(=O)C1=CC=C(C=C1)N)=S | C14H21NO6S2
